US04845128
4-Methyl-N-([(4-trifluoromethylphenyl)amino]-carbonyl)benzenesulfonamide
A solution of 8.0 g of 4-aminobenzotrifluoride in 10 ml of methylene chloride was added to a solution of 9.85 g of p-toluenesulfonyl isocyanate in 75 ml of methylene chloride with stirring. The mixture became quite warm and a heavy white precipitate formed. An additional 100 ml of methylene chloride was added. The reaction mixture was stirred an additional 15 minutes, and the precipitate was recovered by filtration affording 15.0 g of the title product as a white solid. A small amount of the material was crystallized from diethyl ether to provide 4-methyl-N-([(4-trifluoromethylphenyl)amino]carbonyl)benzenesulfonamide with a melting point of 194°-197° C.

reactant | 4-aminobenzotrifluoride | 8.0 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | p-toluenesulfonyl isocyanate | 9.85 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-N-([(4-trifluoromethylphenyl)amino]-carbonyl)benzenesulfonamide | 15.0 g | CC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C15H13F3N2O3S
